US08461164B2
A mixture of 2,6,7-trimethylpteridin-4(1H)-one (1.1 g, 6.0 mmol), 4-methoxyphenethylamine (1.6 g, 11 mmol) and ammonium sulfate (0.56 g, 4.2 mmol) in hexamethyldisilazane (16 mL) was heated at 115° C. for 6 h. After cooling, the majority of solids were dissolved by addition of CH2Cl2 and H2O and the solvents removed in vacuo. The residue was slurried in a mixture of MeOH (5 mL) and H2O (50 mL) and stirred for 45 min. The bronze solid was collected by suction filtration and dried in vacuo at 50° C. The residue was dissolved in MeOH/CH2Cl2 and diluted with Et2O, causing crystallization. All solvent was allowed to evaporate, and the remaining solid dried in vacuo to afford [2-(4-methoxyphenyl)-ethyl]-(2,6,7-trimethylpteridin-4-yl)-amine as a brown powder (1.3 g; 67%): 1H NMR (300 MHz, CDCl3) δ 7.22-7.14 (m, 2H), 6.95 (t, J=6.3 Hz, 1H), 6.90-6.83 (m, 2H), 3.87 (dd, J=13.5, 6.8 Hz, 2H), 3.80 (s, 3H), 2.97 (t, J=7.2 Hz, 2H), 2.69 (s, 3H), 2.66 (s, 3H), 2.61 (s, 3H).

reactant | 2,6,7-trimethylpteridin-4(1H)-one | 6.0 mmol, 1.1 g | CC=1NC2=NC(=C(N=C2C(N1)=O)C)C | C9H10N4O
reactant | 4-methoxyphenethylamine | 11 mmol, 1.6 g | COC1=CC=C(CCN)C=C1 | C9H13NO
reactant | ammonium sulfate | 4.2 mmol, 0.56 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | hexamethyldisilazane | 16 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | H2O | O | H2O
product | [2-(4-methoxyphenyl)-ethyl]-(2,6,7-trimethylpteridin-4-yl)-amine | COC1=CC=C(C=C1)CCNC1=NC(=NC2=NC(=C(N=C12)C)C)C | C18H21N5O
